US08865726B2
A solution of (S)-methyl 2-(3-(2,4-dimethoxybenzyl)ureido)-3-methylbutanoate (1.00 g, 3.10 mmol) in MeOH (7.5 mL) and NEt3 (0.430 mL, 3.10 mmol) in a sealed vessel was placed in preheated sand bath (at 100° C.) and heated for 18 hours. The cooled reaction mixture was concentrated and the residue was taken up in ether, washed with water, dried over sodium sulfate and filtered. Purification of the crude material by column chromatography, eluting with 1-3% MeOH/dichloromethane, afforded (S)-3-(2,4-dimethoxybenzyl)-5-isopropylimidazolidine-2,4-dione as an ivory colored solid (0.640 g, 71%). LCMS (APCI+) m/z 293 [M+H]+.

reactant | (S)-methyl 2-(3-(2,4-dimethoxybenzyl)ureido)-3-methylbutanoate | 3.10 mmol, 1.00 g | COC1=C(CNC(N[C@H](C(=O)OC)C(C)C)=O)C=CC(=C1)OC | C16H24N2O5
reactant | NEt3 | 3.10 mmol, 0.430 mL | CCN(CC)CC | C6H15N
solvent | MeOH | 7.5 mL | CO | CH4O
product | (S)-3-(2,4-dimethoxybenzyl)-5-isopropylimidazolidine-2,4-dione | 0.640 g, 71% | COC1=C(CN2C(N[C@H](C2=O)C(C)C)=O)C=CC(=C1)OC | C15H20N2O4
